US04385066
N-[2-(4-Carbomethoxy-3-methylphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared as in Example 1b from 1-(4-carbomethoxy-3-methylphenyl)propan-2-one (2.0 g) and 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine (2.0 g), the compound crystallised from hexane m.p. 88°-92° as a 41:59 mixture of diastereoisomers. τ(CDCl3) 8.9 (3H,d,J=6 Hz), 7.4 (3H,s), 6.8-7.8 (5H,m,=2H, replaceable by D2O), 6.1 (3H,s), 5.3 (1H,m), 2.9 (2H,m), 2.3-2.6 (4H,m), 2.1 (1H,dd,J=8 Hz, J=2 Hz).

reactant | 1-(4-carbomethoxy-3-methylphenyl)propan-2-one | 2.0 g | C(=O)(OC)C1=C(C=C(C=C1)CC(C)=O)C | C12H14O3
reactant | 2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 2.0 g | OC(CN)C1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
product | N-[2-(4-Carbomethoxy-3-methylphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | C(=O)(OC)C1=C(C=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O)C | C21H24F3NO3
